US05616537
Preparation of N-[5-(4,6-dimethoxypyrimidin-2-yl)oxy-3-ethoxycarbonyl-2-methylbenzofuran-4-carbonyl]imidazole (Compound No. 16)
While stirring 0.8 g of 5-(4,6-dimethoxypyrimidin-2-yl)oxy-3-ethoxycarbonyl-2-methyl-benzofuran-4-carboxylic acid in 30 ml of tetrahydrofuran at room temperature, 0.36 g of carbonyldiimidazole was added thereto. The mixture was stirred at room temperature for one hour and then concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with water. It was dried over anhydrous sodium sulfate and then concentrated under reduced pressure, and the crystals thereby obtained were washed with n-hexane to obtain 0.81 g (yield: 90%) of the desired compound.

reactant | 5-(4,6-dimethoxypyrimidin-2-yl)oxy-3-ethoxycarbonyl-2-methyl-benzofuran-4-carboxylic acid | 0.8 g | COC1=NC(=NC(=C1)OC)OC1=CC=C2C(C(=C(O2)C)C(=O)OCC)=C1C(=O)O | C19H18N2O8
reactant | carbonyldiimidazole | 0.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[5-(4,6-dimethoxypyrimidin-2-yl)oxy-3-ethoxycarbonyl-2-methylbenzofuran-4-carbonyl]imidazole | 0.81 g, yield: 90% | COC1=NC(=NC(=C1)OC)OC1=CC=C2C(C(=C(O2)C)C(=O)OCC)=C1C(=O)N1C=NC=C1 | C22H20N4O7
